US06756378B2
A mixture of 4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetic acid (398 mg, 1.19 mmol), methyl 4-[(2S,4S)-4-methoxy-2-pyrrolidinyl]methoxybenzoate (317 mg, 1.19 mmol), EDC.HCl (342 mg, 1.79 mmol), HOBT (242 mg, 1.79 mmol) and Et3N (0.83 ml, 5.95 mmol) in DMF (5 ml) was stirred at room temperature for 13 h. The mixture was poured into ice water and extracted with EtOAc. The combined extracts were washed with ice water and brine. After dried over Na2SO4, the extracts were concentrated in vacuo. The residue was chromatographed on silica gel [50 g, CHCl3/Aectone (10/1)CHCl3/MeOH (20/1)], to give methyl 4-[(2S,4S)-1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetyl]-4-methoxy-2-pyrrolidinyl]methoxybenzoate (600 mg, 87%) as a colorless amorphous solid 1H-NMR (CDCl3) δ1.99-2.06 (m, 1H), 2.34 (d, J=13.9 Hz, 1H), 3.30 (s, 3H), 3.59 (d, J=7.4 Hz, 1H), 3.62 (d, J=3.2 Hz, 2H), 3.83 (s, 3H), 3.88 (s, 3H), 4.00-4.18 (m, 3H), 4.42-4.51 (m, 2H), 6.82-7.07 (m, 7H), 7.28 (d, J=8.3 Hz, 1H), 7.35 (dd, J=7.9, 1.5 Hz, 1H), 7.94-8.00 (m, 3H), 8.18 (d, J=8.3 Hz, 1H); MS (ESI) m/z 582 (M++1), 5.84 (M++3).

reactant | 4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetic acid | 1.19 mmol, 398 mg | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15ClN2O4
reactant | methyl 4-[(2S,4S)-4-methoxy-2-pyrrolidinyl]methoxybenzoate | 1.19 mmol, 317 mg | CO[C@H]1C[C@H](NC1)COC1=CC=C(C(=O)OC)C=C1 | C14H19NO4
reactant | EDC.HCl | 1.79 mmol, 342 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 1.79 mmol, 242 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 5.95 mmol, 0.83 ml | CCN(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-[(2S,4S)-1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetyl]-4-methoxy-2-pyrrolidinyl]methoxybenzoate | 600 mg, 87% | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1[C@@H](C[C@@H](C1)OC)COC1=CC=C(C(=O)OC)C=C1)OC)=O | C30H32ClN3O7
